US09120837B2
A solution of 2-bromo-N-(3-iodophenyl)acetamide (2.67 g, 7.83 mmol), 1H-imidazole-2-carbaldehyde (0.752 g, 7.83 mmol) and DIPEA (10 mL) in DMF (20 mL) was stirred at 80° C. for 4 hrs. The solvent was evaporated under reduced pressure to afford a residue, which was purified by Biotage eluting with DCM in hexanes to 10% MeOH in DCM to give 2-(2-formyl-1H-imidazol-1-yl)-N-(3-iodophenyl)acetamide (2.60 g, 94%). 1H NMR (400 MHz, DMSO) 9.64 (s, 1H), 8.17 (brs, 1H), 8.04 (s, 1H), 7.60 (s, 1H), 7.46 (d, J=8.4 Hz, 1H), 7.40 (d, J=8.0 Hz, 1H), 7.28 (s, 1H), 7.10 (t, J=8.0 Hz, 1H), 5.23 (s, 2H).

reactant | 2-bromo-N-(3-iodophenyl)acetamide | 7.83 mmol, 2.67 g | BrCC(=O)NC1=CC(=CC=C1)I | C8H7BrINO
reactant | 1H-imidazole-2-carbaldehyde | 7.83 mmol, 0.752 g | N1C(=NC=C1)C=O | C4H4N2O
reactant | DIPEA | 10 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2-(2-formyl-1H-imidazol-1-yl)-N-(3-iodophenyl)acetamide | 2.60 g, 94% | C(=O)C=1N(C=CN1)CC(=O)NC1=CC(=CC=C1)I | C12H10IN3O2
